US05047540
To a solution of 1.2 g (3 mM) of 2-methoxy-3-octadecylcarbamoyloxypropylamine IVa1 in 24 ml of dichloromethane and 0.5 ml (3.6 mM) of triethylamine is added 0.75 g (3.93 mM) of 4-chlorobutanesulfonyl chloride with ice-cooling and the mixture is stirred at room temperature overnight. The product is isolated with dichloromethane extraction and dichloromethane layer is washed with saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and evaporated. The residue is purified by the column chromatography on silica gel with a n-hexane-ethyl acetate (3:2) mixture as an eluent. The product is recrystallized from dichloromethane-n-hexane to give 1.28 g (2.305 mM) of 3-(4-chlorobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane IIIa5 as colorless crystals in 77% yield.

reactant | 2-methoxy-3-octadecylcarbamoyloxypropylamine | 3 mM, 1.2 g | COC(CN)COC(NCCCCCCCCCCCCCCCCCC)=O | C23H48N2O3
reactant | triethylamine | 3.6 mM, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutanesulfonyl chloride | 3.93 mM, 0.75 g | ClCCCCS(=O)(=O)Cl | C4H8Cl2O2S
solvent | dichloromethane | 24 ml | ClCCl | CH2Cl2
product | 3-(4-chlorobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 2.305 mM, 1.28 g, 77% yield | ClCCCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C27H55ClN2O5S
